US05486466
A mixture of 4.76 g 2,2,2-trichloroethyl 3,5-diacetoxy-dimethylbenzoate and 2.24 g N-bromosuccinimide in 36 ml of carbontetrachloride was heated at reflux temperature and with light irradiation for 30 minutes. The mixture was cooled in an ice bath and insoluble material was removed by filtration. The filtrate was diluted with methylene chloride, washed with water, dried over sodium sulphate and evaporated in vacuo to provide crude 2,2,2-trichloroethyl 3,5-diacetoxy-2-bromomethyl-6-methylbenzoate, which was used directly without further purification.

reactant | 2,2,2-trichloroethyl 3,5-diacetoxy-dimethylbenzoate | 4.76 g | C(C)(=O)OC=1C(=C(C(=O)OCC(Cl)(Cl)Cl)C(=C(C1)OC(C)=O)C)C | C15H15Cl3O6
reactant | N-bromosuccinimide | 2.24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbontetrachloride | 36 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,2,2-trichloroethyl 3,5-diacetoxy-2-bromomethyl-6-methylbenzoate | C(C)(=O)OC=1C(=C(C(=O)OCC(Cl)(Cl)Cl)C(=C(C1)OC(C)=O)C)CBr | C15H14BrCl3O6
